US04036979
5,6,7,8-Tetrahydro-4H-cyclohepta[b]thiophen-4-one is converted to N-(5,6,7,8-tetrahydro-4H-cyclohepta[b]thien-4-yl)formamide, m.p. 164°-166° C., by the method of Kloetzel et al., Journal of Organic Chemistry 18, 1511 (1953). Hydrolysis of the formamide is accomplished by refluxing for one hour in 1N hydrochloric acid and evaporating to dryness to afford 5,6,7,8-tetrahydro-4H-cyclohepta[ b]thiophen-4-amine hydrochloride, m.p. 233°-236° C. dec. The amine hydrochloride is then allowed to react with methyl isocyanate in dry tetrahydrofuran as solvent in the presence of a stoichiometric equivalent of triethylamine to afford 1-methyl-3-(5,6,7,8-tetrahydro-4H-cyclohepta[b]thien-4-yl)urea, m.p. 220°-222° C.

reactant | 5,6,7,8-Tetrahydro-4H-cyclohepta[b]thiophen-4-one | S1C2=C(C=C1)C(CCCC2)=O | C9H10OS
reactant | N-(5,6,7,8-tetrahydro-4H-cyclohepta[b]thien-4-yl)formamide | S1C2=C(C=C1)C(CCCC2)NC=O | C10H13NOS
reactant | formamide | C(=O)N | CH3NO
reactant | hydrochloric acid | 1N | Cl | ClH
product | 5,6,7,8-tetrahydro-4H-cyclohepta[ b]thiophen-4-amine hydrochloride | Cl.S1C2=C(C=C1)C(CCCC2)N | InChI=1S/C9H13NS.ClH/c10-8-3-1-2-4-9-7(8)5-6-11-9;/h5-6,8H,1-4,10H2;1H
